US07597955B2
4.30 g (25.7 mmole) of carbazole, 18.19 g (77.1 mmole) of p-dibromobenzene, 0.14 g of palladium acetate and 0.33 g of 1,1′-bisdiphenyl phosphinoferrocene, 3.46 g of (36.0 mmole) sodium t-butoxide and 43 ml o-xylene were put in a 200 ml three-necked flask, and refluxed under stirring for 15 hours and 30 minutes under argon flow. The reaction mixture was filtered using a filter packed with alumina to remove insoluble matter, the filter was washed with toluene and tetrahydrofuran successively. The filtrate and wash liquid were combined and condensed under reduced pressure. Hexane was added to the residue, followed by heating and stirring, then insoluble matter was removed by filtration, and the filtrate was vacuum dried. Hexane was added to the residue and deposited crystal was filtered off. The filtrate was condensed, and refined by silica gel column chromatography (eluent:hexane/toluene:3/1), recrystallized with hexane to give 3.68 g of a white crystal of 9-(4-bromophenyl)carbazole (yield: 44.4%).

reactant | carbazole | 25.7 mmole, 4.30 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | p-dibromobenzene | 77.1 mmole, 18.19 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | sodium t-butoxide | 36.0 mmole, 3.46 g | CC(C)([O-])C.[Na+]
reactant | o-xylene | 43 ml | CC=1C=CC=CC1C | C8H10
catalyst | palladium acetate | 0.14 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane toluene | CCCCCC.C1(=CC=CC=C1)C
solvent | Hexane | CCCCCC | C6H14
product | 9-(4-bromophenyl)carbazole | yield: 44.4% | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H12BrN
